US08003806B2
(a) tert-Butyl (3R)-3-(2-nitroanilino)-3-phenylpropanoate
To a solution of 2-fluoronitrobenzene (150 mg, 1.06 mmol) in dichloromethane (4 mL) was added tert-butyl (3R)-3-amino-3-phenylpropanoate (235 mg, 1.06 mmol) and triethylamine (300 μL, 2.12 mmol). The solution was stirred at room temperature for 4 hours, and was then evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with dichloromethane, to afford the title compound, 1H NMR: (CD3OD), 8.76 (br m, 1H), 8.18 (d, J=7.69, 1H), 7.44 (d, J=7.69, 2H), 7.40-7.37 (m, 2H), 7.32-7.28 (m, 1H), 6.84 (d, J=8.79 1H), 6.73-6.69 (m, 1H), 5.12 (dd, J=13.18, 6.59 1H), 2.91 (d, J=6.59 2H), 1.41 (s, 9H).

reactant | 2-fluoronitrobenzene | 1.06 mmol, 150 mg | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | tert-butyl (3R)-3-amino-3-phenylpropanoate | 1.06 mmol, 235 mg | N[C@H](CC(=O)OC(C)(C)C)C1=CC=CC=C1 | C13H19NO2
reactant | triethylamine | 2.12 mmol, 300 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | tert-Butyl (3R)-3-(2-nitroanilino)-3-phenylpropanoate | [N+](=O)([O-])C1=C(N[C@H](CC(=O)OC(C)(C)C)C2=CC=CC=C2)C=CC=C1 | C19H22N2O4
